US04670433
Ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo(1,5-a) (1,4)-benzodiazepine-3-carboxylate
16.5 g of 4-methyl-3,4-dihydro-2H-1,4-benzodiazepine-2,5(1H)-dione and 11.7 g of K-t-butoxide was dissolved in 100 ml of dry dimethyl formamide (DMF) and the mixture was stirred for 10 minutes. Then 13.2 ml of diethylchlorophosphate was added and the resulting mixture was cooled to -20° C. and stirred for 10 minutes. A mixture of 10.8 g K-t-butoxide and 10.5 ml ethyl isocyanoacetate in 30 ml of dry DMF was added to the above prepared mixture at -10° to --20° C. and the resulting mixture was stirred for one hour at RT, whereafter it was poured into 8.7 ml acetic acid in 300 ml water. This mixture was extracted 2 times with 150 ml methylene chloride. The organic phase was dried and evaporated. The resulting residue was crystallized leaving 10 g of the title compound as crystals.

reactant | 4-methyl-3,4-dihydro-2H-1,4-benzodiazepine-2,5(1H)-dione | 16.5 g | CN1CC(NC2=C(C1=O)C=CC=C2)=O | C10H10N2O2
reactant | diethylchlorophosphate | 13.2 ml | C(C)OP(=O)(OCC)Cl | C4H10ClO3P
reactant | ethyl isocyanoacetate | 10.5 ml | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | acetic acid | 8.7 ml | C(C)(=O)O | C2H4O2
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
solvent | DMF | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | Ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo(1,5-a) (1,4)-benzodiazepine-3-carboxylate | 10 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OCC | C15H15N3O3
